US07297700B2
Preparation of (3,5,7-Trimethyl-adamantan-1-yl)-acetyl chloride
3,5,7-trimethyl adamantane-1-carboxylic acid was converted to it's acid chloride per the procedure described for 3,5-dimethyl-adamantan-1-yl)-acetic acid. It was then homologated to the corresponding benzyl ester via the procedure described in Tetrahedron Letters, 1980, 21, 4461-4462. The benzyl ester was converted to the acid by standard hydrogenation conditions of 10% Pd/C in MeOH/EtOAc::1:1. The acid was then converted to the acid chloride via standard treatment with thionyl chloride at reflux for 1 to 2 hours. Excess reagent was azeotropically removed with hexanes and the resulting acid chloride was used without further purification.

reactant | 3,5,7-trimethyl adamantane-1-carboxylic acid | CC12CC3(CC(CC(C1)(C3)C)(C2)C)C(=O)O | C14H22O2
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | MeOH EtOAc | CO.CCOC(=O)C
catalyst | Pd/C | [Pd] | Pd
product | (3,5,7-Trimethyl-adamantan-1-yl)-acetyl chloride | CC12CC3(CC(CC(C1)(C3)C)(C2)C)CC(=O)Cl | C15H23ClO
